US08431575B2
To a solution of 4-{6-butyl-5-[4-cyclohexyloxy-3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-pyridazin-3-yloxy}-piperidine-1-carboxylic acid tert-butyl ester (0.52 mmol, 308 mg) in DCM (3 mL) was added 4 N HCl in dioxane (1 mL) and the reaction mixture was stirred for 1 h. The organic solvents were removed in vacuo and the residue was triturated with anhydrous diethyl ether and hexanes. The yellow solid was dried overnight under high vacuum to give 3-butyl-4-[4-cyclohexyloxy-3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-6-(piperidin-4-yloxy)-pyridazine dihydrochloride (229.3 mg).

reactant | 4-{6-butyl-5-[4-cyclohexyloxy-3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-pyridazin-3-yloxy}-piperidine-1-carboxylic acid tert-butyl ester | 0.52 mmol, 308 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1N=NC(=C(C1)C1=CC(=C(C=C1)OC1CCCCC1)C1=NN=NN1C)CCCC | C32H45N7O4
reactant | HCl | 4 N | Cl | ClH
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 3-butyl-4-[4-cyclohexyloxy-3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-6-(piperidin-4-yloxy)-pyridazine dihydrochloride | 229.3 mg | Cl.Cl.C(CCC)C=1N=NC(=CC1C1=CC(=C(C=C1)OC1CCCCC1)C1=NN=NN1C)OC1CCNCC1 | InChI=1S/C27H37N7O2.2ClH/c1-3-4-10-24-22(18-26(30-29-24)36-21-13-15-28-16-14-21)19-11-12-25(35-20-8-6-5-7-9-20)23(17-19)27-31-32-33-34(27)2;;/h11-12,17-18,20-21,28H,3-10,13-16H2,1-2H3;2*1H
